US06610695B1
b) 2-[4-(N,N-Dimethylaminomethyl)phenyl]-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyrimidinyl)imidazole
To a solution of 2-[4-(N,N-Dimethylaminomethyl)phenyl]-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyrimidinyl)imidazole-N-oxide (0.32 g, 0.66 mmol) in 5 mL of N,N-dimethylacetamide was added triethyl phosphite (0.34 mL, 2.0 mmol) and the solution was heated at 95° C. overnight. The solution was concentrated to a small volume under reduced pressure and H2O was added. The mixture was extracted thrice with 20 mL of CH2C2. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to give a yellow oil. The oil was purified by silica gel chromatography using 5-15% CH3OH/CH2Cl2 to give the title compound as a yellow foam (0.094 g, 30%). ES(+)MS m/e=466 (MH+)

reactant | 2-[4-(N,N-Dimethylaminomethyl)phenyl]-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyrimidinyl)imidazole-N-oxide | 0.66 mmol, 0.32 g | CN(C)CC1=CC=C(C=C1)C1=[N+](C(=C(N1)C1=CC=C(C=C1)F)C1=NC(=NC=C1)OC1=CC=CC=C1)[O-] | C28H24FN5O2
reactant | triethyl phosphite | 2.0 mmol, 0.34 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(N,N-Dimethylaminomethyl)phenyl]-4-(4-fluorophenyl)-5-(2-phenoxy-4-pyrimidinyl)imidazole | 0.094 g, 30% | CN(C)CC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=NC(=NC=C1)OC1=CC=CC=C1 | C28H24FN5O
